US06831175B2
3-Bromo-2-hydroxyimino-propionic acid ethyl ester
Ethyl bromopyruvate (5.0 mL, 39.8 mmol) was added to hydroxylamine hydrochloride (2.52 g, 36.2 mmol) in H2O (10 mL) and CHCl3 (10 mL). The reaction mixture was capped and stirred overnight at 23° C. at which time CH2Cl2 and H2O were added, the layers separated, the organics dried over Na2SO4, and the volatiles removed on a rotary evaporator to yield 7.58 g (100%) of as a white solid. 1H NMR (300 MHz, DMSO-D6) δ ppm 1.26 (t, J=7.12 Hz, 3 H) 4.20 (s, 2 H) 4.24 (m, 2 H) 13.19 (s, 1 H).

reactant | Ethyl bromopyruvate | 39.8 mmol, 5.0 mL | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | hydroxylamine hydrochloride | 36.2 mmol, 2.52 g | Cl.NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | 10 mL | O | H2O
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-Bromo-2-hydroxyimino-propionic acid ethyl ester | C(C)OC(C(CBr)=NO)=O | C5H8BrNO3
